US06245761B1
Preparation of N-(t-butoxycarbonyl)-4-(2-fluoro-5-bromobenzyloxy)-2,2-dimethylbutylamine
A stirred solution of 4-(t-butoxycarbonylamino)-3,3-dimethylbutan-1-ol (1.0 g, 4.60 mmol) in tetrahydrofuran (33 ml) at −45° C. was treated with potassium t-butoxide (1 M in tetrahydrofuran, 5.06 ml, 5.06 mmol). The anion was stirred for 30 minutes at −45° C., then cooled to −78° C. and treated with a tetrahydrofuran solution of 2-fluoro-5-bromobenzyl bromide (1.23 g, 4.60 mmol). The resulting yellow mixture was slowly warmed to 0° C. and stirred for about four hours. The cloudy reaction mixture was diluted wtih methylene chloride (100 ml) and washed with 1 M potassium carbonate. The organic fraction was dried over sodium sulfate, filtered, and the solvents were removed in vacuo. The residue was further purified by preparative high performance liquid chromatography to yield 1.38 grams (74%) of the title intermediate as a colorless oil.

reactant | 4-(t-butoxycarbonylamino)-3,3-dimethylbutan-1-ol | 4.60 mmol, 1.0 g | C(C)(C)(C)OC(=O)NCC(CCO)(C)C | C11H23NO3
reactant | potassium t-butoxide | 5.06 mmol, 1 M, 5.06 ml | CC(C)([O-])C.[K+]
reactant | 2-fluoro-5-bromobenzyl bromide | 4.60 mmol, 1.23 g | FC1=C(CBr)C=C(C=C1)Br | C7H5Br2F
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | N-(t-butoxycarbonyl)-4-(2-fluoro-5-bromobenzyloxy)-2,2-dimethylbutylamine | 1.38 grams, 74% | C(C)(C)(C)OC(=O)NCC(CCOCC1=C(C=CC(=C1)Br)F)(C)C | C18H27BrFNO3
